US06696464B2
A mixture of 23 mg of isobutyric acid N′-[5-(2-methyl-4-phenyl-oxazol-5-yl)-pyridin-2-yl]-hydrazide in 0.68 mL of phosphorous oxychloride was heated at 60° C. for 16 hours. The mixture was cooled to 22° C. and carefully added to 25 mL of water. The aqueous mixture was made basic with 3 N sodium hydroxide and extracted with ethyl acetate (3×). The combined extracts were washed with brine, dried (sodium sulfate), filtered, and the filtrate was concentrated to a dark yellow oil. This oil was purified by flash chromatography (eluting with 97:3 ethyl acetate/methanol) to give 14 mg of 3-isopropyl-6-(2-methyl-4-phenyl-oxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridine as a light yellow solid. LCMS (m/z) 319 M+1. 1H NMR (400 MHz, CDCl3 δ8.18 (s, 1 H), 7.85 (d, 1 H, J=9.8 Hz), 7.60-7.62 (m, 2 H), 7.42-7.49 (m, 4 H), 3.32-3.34 (m, 1 H), 2.63 (s, 3 H), 1.51 (d, 6 H, J=6.7 Hz).

reactant | isobutyric acid N′-[5-(2-methyl-4-phenyl-oxazol-5-yl)-pyridin-2-yl]-hydrazide | 23 mg | CC=1OC(=C(N1)C1=CC=CC=C1)C=1C=CC(=NC1)NNC(C(C)C)=O | C19H20N4O2
reactant | water | 25 mL | O | H2O
reactant | sodium hydroxide | 3 N | [OH-].[Na+]
solvent | phosphorous oxychloride | 0.68 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-isopropyl-6-(2-methyl-4-phenyl-oxazol-5-yl)-[1,2,4]triazolo[4,3-a]pyridine | 14 mg | C(C)(C)C1=NN=C2N1C=C(C=C2)C2=C(N=C(O2)C)C2=CC=CC=C2 | C19H18N4O
